US05321027
In a manner analogous to that described in Example 2, 1-(4-nitro-3-bromobenzoyl)-4-[2-(4-chlorophenyl)ethyl]-piperazine is prepared from 4.7 g of 4-nitro-3-bromobenzoic acid and 1-[2-(4-chlorophenyl)ethyl]-piperazine and, as described in Example 3, reduced in the presence of Raney nickel to form 1-(4-amino-3-bromobenzoyl)-4-[2-(4-chlorophenyl)ethyl]-piperazine having a melting point of 120°-123°.

reactant | 1-(4-nitro-3-bromobenzoyl)-4-[2-(4-chlorophenyl)ethyl]-piperazine | [N+](=O)([O-])C1=C(C=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1)Br | C19H19BrClN3O3
reactant | 4-nitro-3-bromobenzoic acid | 4.7 g | [N+](=O)([O-])C1=C(C=C(C(=O)O)C=C1)Br | C7H4BrNO4
reactant | 1-[2-(4-chlorophenyl)ethyl]-piperazine | ClC1=CC=C(C=C1)CCN1CCNCC1 | C12H17ClN2
catalyst | Raney nickel | [Ni] | Ni
product | 1-(4-amino-3-bromobenzoyl)-4-[2-(4-chlorophenyl)ethyl]-piperazine | NC1=C(C=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1)Br | C19H21BrClN3O
